US05969139
Reaction of 3-amino-5,5-dimethyl-2-cyclohexen-1-one with 3-cyano-4-fluorobenzaldehyde in an analogous manner to that described in Example 1 gave 5-(2,3,4,5,6,7,8,9-octahydro-3,3,6,6-tetramethyl-1,8-dioxo-1H-acridin-9-yl)-2-fluorobenzonitrile. Crystallization from ethanol gave a pale yellow-green crystalline solid of melting point 274-275° C.

reactant | 3-amino-5,5-dimethyl-2-cyclohexen-1-one | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | 3-cyano-4-fluorobenzaldehyde | C(#N)C=1C=C(C=O)C=CC1F | C8H4FNO
product | 5-(2,3,4,5,6,7,8,9-octahydro-3,3,6,6-tetramethyl-1,8-dioxo-1H-acridin-9-yl)-2-fluorobenzonitrile | CC1(CC(C=2C(C3C(CC(CC3=NC2C1)(C)C)=O)C=1C=CC(=C(C#N)C1)F)=O)C | C24H25FN2O2
